US06229020B1
Synthesis of (E) ethyl 3-(4-dimethylamino-2-nitrophenyl)-2-methyl-2-propenate
Into 250 ml of benzene, 20.0 g (0.10 mol) of 4-dimethylamino-2-nitrobenzaldehyde and 36.2 g (0.10 mol) of carbethoxyethylidene triphenylphosphorane (manufactured by Aldrich Chemical Co., Inc.) were dissolved, and the mixture was stirred at room temperature for one night. The solvent was evaporated under a reduced pressure, whereby 58 g of a crude product were obtained. This product was refined by a column chromatography (aminopropylated silica gel: Fuji Silysia Chem. Co., NH-DM1020), whereby 20.8 g of the aimed compound were obtained as a crystal (yield: 74.7%).

reactant | 4-dimethylamino-2-nitrobenzaldehyde | 0.10 mol, 20.0 g | CN(C1=CC(=C(C=O)C=C1)[N+](=O)[O-])C | C9H10N2O3
reactant | carbethoxyethylidene triphenylphosphorane | 0.10 mol, 36.2 g | C(=O)(OCC)CC=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | ethyl 3-(4-dimethylamino-2-nitrophenyl)-2-methyl-2-propenate | 20.8 g | CN(C1=CC(=C(C=C1)C=C(C(=O)OCC)C)[N+](=O)[O-])C | C14H18N2O4
